US04559409
A solution of 97 g sulfaminic acid in 300 ml water was added drop by drop to a mixture of 84 g dicyandiamide, 50 ml water, and 150 ml ethanol at reflux temperature, whereby the reaction was held to the reflux temperature. After all of the sulfaminic acid has been added, the mixture was boiled for another 30 minutes with reflux after which the solvent was drawn off as in Example 1 by applying a water-jet vacuum, whereupon 187 g (94%) guanylurea sulfamate was isolated.

reactant | sulfaminic acid | 97 g | NS(=O)(=O)O | H3NO3S
reactant | dicyandiamide | 84 g | C(#N)N=C(N)N | C2H4N4
reactant | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | guanylurea sulfamate | 187 g, 94% | S(N)(O)(=O)=O.C(N)(=N)NC(=O)N | InChI=1S/C2H6N4O.H3NO3S/c3-1(4)6-2(5)7;1-5(2,3)4/h(H6,3,4,5,6,7);(H3,1,2,3,4)
